US04308378
Step B. Preparation of (E)-2,4-Dichloro-6-phenylmethoxycinnamaldehyde
A stirred suspension of 2,4-dichloro-6-phenylmethoxybenzaldehyde (15.5 g, 55.1 mmole) in acetaldehyde (30 ml) was cooled to 5° C. and treated with 25% methanolic potassium hydroxide (1.4 ml, 6.24 mmole) at such a rate that the internal temperature was maintained at 25°-30° C. The resulting solution was stirred for 30 minutes in the ice bath, treated with acetic anhydride (30 ml) and then heated at 100° C. for 30 minutes. After cooling to 30° C. the solution was treated with water (84 ml) and 12 N hydrochloric acid (7 ml). The resulting mixture was refluxed for 30 minutes and then cooled in an ice bath to give a gummy solid which was recrystallized from cyclohexane to give the title compound (5.6 g, 33%), mp 109°-112° C.: pmr (CDCl3) δ5.10 (2H, s), 7.33 (5H, s), 9.68 (H, d).

reactant | 2,4-dichloro-6-phenylmethoxybenzaldehyde | 55.1 mmole, 15.5 g | ClC1=C(C=O)C(=CC(=C1)Cl)OCC1=CC=CC=C1 | C14H10Cl2O2
reactant | potassium hydroxide | 6.24 mmole, 1.4 ml | [OH-].[K+]
reactant | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 12 N, 7 ml | Cl | ClH
solvent | acetaldehyde | 30 ml | C(C)=O | C2H4O
solvent | water | 84 ml | O | H2O
product | (E)-2,4-Dichloro-6-phenylmethoxycinnamaldehyde | 5.6 g, 33% | ClC1=C(/C=C/C=O)C(=CC(=C1)Cl)OCC1=CC=CC=C1 | C16H12Cl2O2
